US04032567
N-(3-Carboxy-5-acetamido-2,4,6-triiodobenzoyl)-β-alanine Methylamide
99.5 g. (0.15 mole) of N-(3-carboxy-5-amino-2,4,6-triiodobenzoyl)-β -alanine methylamide . 1.1 H2O (IVf), m.p. 250°-252° C. (decomposition) in 190 ml. of dimethylacetamide yield, after reaction with 40.0 ml. of acetyl chloride analogously to Example 1, 60.4 g. (58.8%) of the desired compound. A sample for analysis is purified in alcohol by way of the dimethylammonium salt; m.p. 288°-289° C. (under decomposition).

reactant | N-(3-carboxy-5-amino-2,4,6-triiodobenzoyl)-β -alanine methylamide | 0.15 mole | CNC(CCNC(C1=C(C(=C(C(=C1I)N)I)C(=O)O)I)=O)=O | C12H12I3N3O4
reactant | H2O | O | H2O
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | N-(3-Carboxy-5-acetamido-2,4,6-triiodobenzoyl)-β-alanine Methylamide | 58.8% | CNC(CCNC(C1=C(C(=C(C(=C1I)NC(C)=O)I)C(=O)O)I)=O)=O | C14H14I3N3O5
